US07238706B2
Step 4: N-(2,2,2-trifluoroethyl)-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,4-dihydro-1,8-naphthyridin-4-one-3-carboxamide
A mixture of 1-(3-bromophenyl)-N-(2,2,2-trifluoroethyl)-1,4-dihydro-1,8-naphthyridin-4-one-3-carboxamide (1.0 eq), pinacol diborane (1.5 eq), KOAc (4 eq) and PdCl2(dppf) (0.05 eq) in DMF (0.2M) was stirred at 70–80° C. for 3 h. The mixture was cooled to rt, diluted with EtOAc and a NH4Cl solution. The organic extracts were washed with H2O, brine, dried over MgSO4, filtered and concentrated. Crystallization from EtOAc-Ether-Hexane (1:1:2) and flash chromatography (CH2Cl2:EtOAc, 50:50) of the mother liquor afforded the title compound as a white solid.

reactant | 1-(3-bromophenyl)-N-(2,2,2-trifluoroethyl)-1,4-dihydro-1,8-naphthyridin-4-one-3-carboxamide | 1.0 eq | BrC=1C=C(C=CC1)N1C=C(C(C2=CC=CN=C12)=O)C(=O)NCC(F)(F)F | C17H11BrF3N3O2
reactant | pinacol diborane | 1.5 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 4 eq | CC(=O)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 0.2M | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.05 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(2,2,2-trifluoroethyl)-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,4-dihydro-1,8-naphthyridin-4-one-3-carboxamide | FC(CNC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C23H23BF3N3O4
